US08232426B2
10.4 N-[6-(2-Amino-ethyl)-pyridin-3-yl]-4-isopropyl-benzenesulfonamide
A mixture of N-(6-cyanomethyl-pyridin-3-yl)-4-isopropyl-benzenesulfonamide (1.7 g, 5.4 mmol) aqueous ammonia (45 ml) and raney-nickel (2.7 mmol) in ethanol (50 ml) was hydrogenated at atmospheric pressure. After filtration the mixture was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and saturated aqueous NaHCO3 and the aqueous layer extracted five times with ethyl acetate. The combined organic layers were dried over MgSO4, filtered, and the solvent evaporated under reduced pressure to give the product as a yellow powder after recrystallisation from methanol/ethyl acetate (1.3 g, 73%).

reactant | N-(6-cyanomethyl-pyridin-3-yl)-4-isopropyl-benzenesulfonamide | 5.4 mmol, 45 ml, 1.7 g | C(#N)CC1=CC=C(C=N1)NS(=O)(=O)C1=CC=C(C=C1)C(C)C | C16H17N3O2S
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | raney-nickel | 2.7 mmol | [Ni] | Ni
product | N-[6-(2-Amino-ethyl)-pyridin-3-yl]-4-isopropyl-benzenesulfonamide | NCCC1=CC=C(C=N1)NS(=O)(=O)C1=CC=C(C=C1)C(C)C | C16H21N3O2S
